US06114537
Synthesis of 3-[2-pyridylamino]-1,2,4-thiadiazolo[4,5-a]benzimidazole
To a cooled solution of 3-bromo-1,2,4-thiadiazolo[4,5-a]benzimidazole (0.30 g, 1.17 mmol) in 15 mL of dichloromethane, 2-aminopyridine (0.276 g, 2.93 mmol) was added dropwise and the mixture was allowed to stir for 48 h. The reaction mixture wad diluted with 100 mL of dichloromethane and washed with water (2×30 mL) and then brine (1×25 mL). The organic layer was dried over magnesium sulfate and evaporated to give a yellow solid (0.26 g, 83%) 1H-NMR (CDCl3)δ 6.59 (apparent 5, 1H, pyr-H), 7.12 (apparent br. d, 1H, pyr-H), 7.28 (t, 1H, ArH), 7.38 (t, 1H, ArH), 7.51 (m, 2H, ArH & pyr-H), 7.70 (d, 1H, ArH), 8.28 (d, 1H, pyr-H); m.p. 155.5-157° C.

reactant | 3-bromo-1,2,4-thiadiazolo[4,5-a]benzimidazole | 1.17 mmol, 0.30 g | BrC1=NSC2=NC3=C(N21)C=CC=C3 | C8H4BrN3S
reactant | 2-aminopyridine | 2.93 mmol, 0.276 g | NC1=NC=CC=C1 | C5H6N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-[2-pyridylamino]-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.26 g, 83% | N1=C(C=CC=C1)NC1=NSC2=NC3=C(N21)C=CC=C3 | C13H9N5S
